* I:\Work\Job\Projects\Analog\PMOS\idvds_pmos.asc
* Generated by LTspice 26.0.2 for Windows.
VGS N002 0 0
VDS N003 0 0.9
M1 N001 N002 N003 N001 tsmc_pmos l=0.18u w=10u
VDD N001 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Inam\AppData\Local\LTspice\lib\cmp\standard.mos
.include tsmc_180nm.lib
.dc Vds 0 1.8 0.01 Vgs 0.5 1.5 0.2
.backanno
.end
